US05679696
Alternatively, a suspension of 3-cyclopentyloxy-4-methoxybenzamide (2.58 g; that is prepared as described in Reference Example 73) in dry toluene (40 mL) is heated at reflux and treated with potassium t-butoxide (1.4 g), followed by 3,4,5-trichloro-pyridine (1.82 g). The mixture is then heated at reflux for 3 hours and 45 minutes, and is then treated with a further quantity of potassium t-butoxide (1.4 g) and heated at reflux for a further period of 7 hours. The mixture is allowed to cool and is then filtered. The filtrate is evaporated and the resulting residue is extracted with aqueous sodium hydroxide solution (2M). The alkaline solution is then acidified by treatment with acetic acid, and the solid which separates is collected by filtration, washed with water and dried, to give N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-methoxybenzamide (2.09 g) in the form of a buff solid, m.p. 153°-155° C.

reactant | 3-cyclopentyloxy-4-methoxybenzamide | C1(CCCC1)OC=1C=C(C(=O)N)C=CC1OC | C13H17NO3
reactant | potassium t-butoxide | 1.4 g | CC(C)([O-])C.[K+]
reactant | 3,4,5-trichloro-pyridine | 1.82 g | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | potassium t-butoxide | 1.4 g | CC(C)([O-])C.[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-methoxybenzamide | 2.09 g | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O)Cl | C18H18Cl2N2O3
